US04377580
A mixture of 4-amino-6-ethylquinazoline (6.35 g) and diethyl ethoxymethylenepropanedioate (9.52 g) in N,N-dimethylformamide (25 ml) was stirred for 3 hours at 110° C. and then cooled to ambient temperature. A small volume of water was added to the resultant mixture to precipitate crystals, which were separated by filtration and washed with water. The crystals were dissolved in chloroform, washed with an aqueous solution saturated with sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a crystalline residue, which was recrystallized from a mixture of ethyl acetate and hexane to give crystalline diethyl [(6-ethyl-4-quinazolinylamino)methylene]propanedioate (8.40 g). Further, crystals (2.75 g) of the same compound were recovered from the mother liquor in the same manner as mentioned above.

reactant | 4-amino-6-ethylquinazoline | 6.35 g | NC1=NC=NC2=CC=C(C=C12)CC | C10H11N3
reactant | diethyl ethoxymethylenepropanedioate | 9.52 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | diethyl [(6-ethyl-4-quinazolinylamino)methylene]propanedioate | 8.40 g | C(C)C=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OCC)C(=O)OCC | C18H21N3O4
